US05324747
N-[3-[3-(Diethoxyphosphinyl)propoxy]-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester
A mixture of 1.82 g (3.27 mmol) of [3-[3-amino-5-(octadecyloxy)phenoxy]propyl]phosphonic acid diethyl ester, 1.6 ml (9.82 mmol) of benzyl bromoacetate, 1.8 g (8.19 mmol) of 1,8-bis-(dimethylamino)naphthalene and 0.14 g (0.92 mmol) of sodium iodide in 40 ml of acetronitrile and 15 ml of DMF was stirred at reflux under argon for 48 hours. The reaction mixture was concentrated at reduced pressure and the residue was dissolved in ethyl acetate. The extract was washed with 0.05N HCl, dried and concentrated a reduced pressure to an oil which was purified by HPLC using 55% ethyl acetate-hexane. This gave 2.41 g (86% yield) of N-[3-[3-(diethoxyphosphinyl)propoxy-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester as an oil. The structure was confirmed by nmr and mass spectra.

reactant | [3-[3-amino-5-(octadecyloxy)phenoxy]propyl]phosphonic acid diethyl ester | 3.27 mmol, 1.82 g | C(C)OP(OCC)(=O)CCCOC1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)N | C31H58NO5P
reactant | benzyl bromoacetate | 9.82 mmol, 1.6 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis-(dimethylamino)naphthalene | 8.19 mmol, 1.8 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 0.92 mmol, 0.14 g | [I-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-[3-[3-(Diethoxyphosphinyl)propoxy]-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester | 86% yield | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCP(=O)(OCC)OCC)=O | C49H74NO9P
